US04861769
A mixture of ethyl 3-ethoxy-3-imino-2-(cyclopropyloxyimino)propionate (syn isomer)(9.6 g) and ammonium chloride (3.27 g) in methanol (70 ml) was stirred at ambient temperature for 3 days. The mixture was concentrated in vacuo and triturated with diethyl ether to give crude ethyl 2-amidino-2-(cyclopropyloxyimino)acetate hydrochloride (syn isomer) (9.00 g) as a solid.

reactant | ethyl 3-ethoxy-3-imino-2-(cyclopropyloxyimino)propionate | 9.6 g | C(C)OC(C(C(=O)OCC)=NOC1CC1)=N | C10H16N2O4
reactant | ammonium chloride | 3.27 g | [Cl-].[NH4+]
solvent | methanol | 70 ml | CO | CH4O
product | ethyl 2-amidino-2-(cyclopropyloxyimino)acetate hydrochloride | 9.00 g | Cl.C(N)(=N)C(C(=O)OCC)=NOC1CC1 | InChI=1S/C8H13N3O3.ClH/c1-2-13-8(12)6(7(9)10)11-14-5-3-4-5;/h5H,2-4H2,1H3,(H3,9,10);1H
